US07612114B2
2-{5-Methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}-5-(2-piperidin-1-ylethoxy)-2,3-dihydro-1H-isoindole
Synthesized from 5-hydroxy-2-{5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}isoindole-1,3-dione and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Example 383 described below, 2-{5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}-5-(2-piperidin-1-ylethoxy) isoindole-1,3-dione (772 mg) was used according to an analogous synthetic method to Example 337 to provide the title compound (630 mg).

reactant | 5-hydroxy-2-{5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}isoindole-1,3-dione | OC=1C=C2C(N(C(C2=CC1)=O)C1=C(C=CC(=C1)OC)CCC1=CC=C(C=C1)OC)=O | C24H21NO5
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | 2-{5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}-5-(2-piperidin-1-ylethoxy) isoindole-1,3-dione | 772 mg | COC=1C=CC(=C(C1)N1C(C2=CC=C(C=C2C1=O)OCCN1CCCCC1)=O)CCC1=CC=C(C=C1)OC | C31H34N2O5
product | 2-{5-Methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}-5-(2-piperidin-1-ylethoxy)-2,3-dihydro-1H-isoindole | 630 mg | COC=1C=CC(=C(C1)N1CC2=CC=C(C=C2C1)OCCN1CCCCC1)CCC1=CC=C(C=C1)OC | C31H38N2O3
